US04432993
N-[2-(4-(3-Carbomethoxypropoxy)phenyl)-1-methylethyl]-2-(2-benzofuranyl)-2-hydroxyethanamine
By a method analogous to that described in Example 2 but using 2-(2-benzofuranyl)-2-hydroxyethanamine (4.54 g) and 1-(4-[3-carbomethoxypropoxy]phenyl)propan-2-one (6.41 g), N-[2-(4-(3-carbomethoxyphenoxy)phenyl)-1-methylphenyl]-2-(2-benzofuranyl)-2-hydroxyethanamine was prepared, m.p. 63°-70° (Et2O) as a 37:63 mixture of diastereoisomers.

reactant | 2-(2-benzofuranyl)-2-hydroxyethanamine | 4.54 g | O1C(=CC2=C1C=CC=C2)C(CN)O | C10H11NO2
reactant | 1-(4-[3-carbomethoxypropoxy]phenyl)propan-2-one | 6.41 g | C(=O)(OC)CCCOC1=CC=C(C=C1)CC(C)=O | C14H18O4
reactant | N-[2-(4-(3-carbomethoxyphenoxy)phenyl)-1-methylphenyl]-2-(2-benzofuranyl)-2-hydroxyethanamine | C(=O)(OC)C=1C=C(OC2=CC=C(C=C2)C2C(C=CC=C2)(C)NCC(O)C=2OC3=C(C2)C=CC=C3)C=CC1 | C31H29NO5
solvent | Et2O | CCOCC | C4H10O
product | N-[2-(4-(3-Carbomethoxypropoxy)phenyl)-1-methylethyl]-2-(2-benzofuranyl)-2-hydroxyethanamine | C(=O)(OC)CCCOC1=CC=C(C=C1)CC(C)NCC(O)C=1OC2=C(C1)C=CC=C2 | C24H29NO5
